US06753322B2
6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxylic acid
A solution of methyl 6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxylate (Preparation 9) (0.7 g, 1.28 mmol) and 10% w/w aqueous sodium hydroxide solution (1.3 ml, 3.2 mmol) in methanol (2.3 ml) was stirred at room temperature for 14 hours. The solution was adjusted to pH 4 by the addition of 2N aqueous hydrochloric acid and the precipitated white solid collected by filtration. The solid was washed with water and dried under reduced pressure to give the target compound as a white powder, (0.21 g, 30%).

reactant | methyl 6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxylate | 1.28 mmol, 0.7 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OC)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C28H30N6O6
reactant | sodium hydroxide | 3.2 mmol, 1.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 2.3 ml | CO | CH4O
product | 6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxylic acid | 0.21 g, 30% | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)O)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C27H28N6O6
